US07713993B2
Synthesis of 5-chloro-2-(4-fluorophenyl)pentanoic acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide
IPEA (1.28 mL), HOBT (330 mg) and EDC (468 mg) were added to a solution of 5-chloro-2-(4-fluorophenyl)pentanoic acid hydrazide hydrochloride (342 mg) and (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (315 mg) in DMF (5 mL), and the reaction solution was stirred at room temperature for 14 hours. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 427 mg of the title compound. The property value of the compound is as follows.

reactant | IPEA | 1.28 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 330 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-chloro-2-(4-fluorophenyl)pentanoic acid hydrazide hydrochloride | 342 mg | Cl.ClCCCC(C(=O)NN)C1=CC=C(C=C1)F
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 315 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 468 mg
product | 5-chloro-2-(4-fluorophenyl)pentanoic acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide | 427 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NNC(C(CCCCl)C1=CC=C(C=C1)F)=O | C25H26ClFN4O3
